US04140775
In the manner given in Example 1C, 1-(p-methylphenyl)-4-[1-(p-aminophenyl)ethyl]piperazine and 4,7-dichloroquinoline are reacted together at reflux to give 4-[[4-[1-[4-(p-methylphenyl)-1-piperazinyl]ethyl]phenyl]amino]-7-chloroquinoline.

reactant | 1-(p-methylphenyl)-4-[1-(p-aminophenyl)ethyl]piperazine | CC1=CC=C(C=C1)N1CCN(CC1)C(C)C1=CC=C(C=C1)N | C19H25N3
reactant | 4,7-dichloroquinoline | ClC1=CC=NC2=CC(=CC=C12)Cl | C9H5Cl2N
product | 4-[[4-[1-[4-(p-methylphenyl)-1-piperazinyl]ethyl]phenyl]amino]-7-chloroquinoline | CC1=CC=C(C=C1)N1CCN(CC1)C(C)C1=CC=C(C=C1)NC1=CC=NC2=CC(=CC=C12)Cl | C28H29ClN4
